US20010014691A1
3-Chloro-1-(2-methyl(3-pyridyloxy))propane
Under a nitrogen atmosphere, a solution of 3-hydroxy-2-methylpyridine (2.00 g, 18.3 mmol) in N, N-dimethylformamide (DMF) (10 mL) was added drop-wise over 5 min to a cold (0-5° C.), stirring slurry of sodium hydride (0.576 g of an 80% dispersion in mineral oil, 19.2 mmol) in DMF (40 mL). The mixture was allowed to stir and warm to ambient temperature over 1 h. The slurry was cooled to 0-5° C., and 1-chloro-3-iodopropane (4.49 g, 22.0 mmol) was added drop-wise over 5 min. The resulting dark-brown mixture was stirred at ambient temperature for 2 h. Cold water (25 mL) was added, followed by saturated NaCl solution (25 mL), and the mixture was extracted with ether (4×100 mL). The combined ether extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 3.25 g (96.2%) of an oil.

reactant | 3-hydroxy-2-methylpyridine | 18.3 mmol, 2.00 g | OC=1C(=NC=CC1)C | C6H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-3-iodopropane | 22.0 mmol, 4.49 g | ClCCCI | C3H6ClI
reactant | NaCl | 25 mL | [Na+].[Cl-]
solvent | N, N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | DMF | 40 mL | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
product | 3-Chloro-1-(2-methyl(3-pyridyloxy))propane | 3.25 g, 96.2% | ClCCCOC=1C(=NC=CC1)C | C9H12ClNO
